Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N+:2]([N-:3][H:10])=[N:6][N+:5]#[C-:4])([H:7])([H:8])[H:9]>>[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9],25.270645262752424
[C:1]([O:2][C@:3]1([H:11])[C@@:4]([C:7](=[C:6]([H:15])[H:16])[H:17])([H:12])[C:5]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],63.702109050159585
[C:1]([C:2]([C:6](=[O:7])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](=[C:4]=[O:5])([H:13])[H:14]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],61.861753515378204
[N:1]([C@@:2]1([O:3][H:12])[C:4]([H:10])([H:11])[O+:5]=[C-:6][N:7]1[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],31.99544772175399
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]#[C:2][C:3]([N:5]=[C:4]([H:7])[H:8])([H:6])[H:9],68.2571166799433
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[C:4](#[N:5])[H:8].[O:1]([N:3]=[C:2]=[N:6][H:9])[H:7],102.294488495722
[O-:1][C:2]([C+:3]1[C:4]([H:8])([H:9])[N:5]1[H:10])([H:6])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],3.3283903868362046
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([C:3]#[N:4])(=[C:5]=[O:6])[C:7]([H:12])([H:13])[H:14]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],56.1508232623354
[C:1]([C@:2]1([C:4]#[C:5][H:14])[C@@:3]2([H:12])[C:6]1=[C:7]2[H:15])([H:8])([H:9])[H:10].[H:11][H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],47.73036893468109
[N-:1]([C+:2]([C:3](=[C:4]([C+:5]=[N:6][H:11])[H:10])[H:9])[O-:7])[H:8]>>[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8],34.37967824605872
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]([C:2](=[C:3])[H:9])([C@@:6]1([H:12])[C:4]([H:10])([H:11])[O:5]1)([H:7])[H:8],78.3179028294824
[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10]>>[C:1]1([H:7])=[N:2][C@:3]1([C@@:4]1([H:11])[C:5]([H:9])([H:13])[N:6]1[H:14])[H:10].[H:8][H:12],99.4794042556089
[C:1](=[C:2]=[C:3]1[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7]1)([H:8])[H:9].[H:10][H:17]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],48.20926819299339
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C@@:2]([O:3][H:12])(/[C:4](=[N:5]/[H:15])[H:14])[H:11])([H:8])([H:9])[H:10].[H:13][H:16],69.2874798308805
[N:1]([N:7]=[C:6]=[C:5]=[C:4]=[C:2]=[O:3])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],60.154649829502276
[H:8][H:14].[O:1]=[C:2]([C@@:7]1([H:15])[C:3]([H:10])([H:11])[C@:4]12[C:5]([H:12])([H:13])[O:6]2)[H:9]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],65.38591685651079
[C:1]([C:2](=[O:3])[H:10])([C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],66.42342935670766
[O:1]([C:2]([C@@:3]1([H:9])[C-:4]([H:11])[N+:5]1([H:10])[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],11.3213224794438
[C-:5]#[O+:6].[O:1]([C:2]([C:4]([C:3](=[C:7]([H:14])[H:15])[H:11])([H:12])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],66.22595443774026
[C-:1]([O+:2]=[C:3]([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],27.49444643313449
[C:2]1([H:9])([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C@:6]1([O:7][H:15])[H:14].[O:1]([H:8])[H:13]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],46.9654549567145
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C@@:2]([C:3]([C:4][H:11])([H:9])[H:10])([C:5]#[N:6])[H:8])[H:7],82.5254075702975
[C:4]([C:5]#[N:6])([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:7])[H:8]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],70.25418463073231
[C-:3]#[O+:4].[H:7][H:9].[O:1]=[C:2]([C:5](=[O:6])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],30.261308116544896
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[C:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],43.209429688669005
[N:1]([C:2]([C:3](=[C:5]=[N:6][N:4]([H:12])[H:13])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],43.92717577388599
